US04880809
Using 2,3-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (10 g), powdery sodium methoxide [prepared by subjecting a 28% methanol solution of sodium methoxide (40 g) to concentration to dryness under reduced pressure] and dimethyl carbonate (150 g), a condensation reaction is carried out in a manner as that described in Example 42. The resulting methyl ester of 2,3-dimethoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid is dissolved in a mixture of methanol (100 ml) and methylene chloride (100 ml). The solution is subjected to reduction in a manner as that described in Example 42, using sodium borohydride (2 g). The product is purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1) to afford 2,3-dimethoxy-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid methyl ester (8 g) as a pale yellow oil.

reactant | 2,3-dimethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 10 g | COC=1C(=CC2=C(CCCCC2=O)C1)OC | C13H16O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium methoxide | 40 g | C[O-].[Na+]
reactant | 2,3-dimethoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid | COC=1C(=CC2=C(CCCC(C2=O)C(=O)O)C1)OC | C14H16O5
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dimethoxy-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid methyl ester | 8 g | COC(=O)C1C(C2=C(CCC1)C=C(C(=C2)OC)OC)O | C15H20O5
